US08138176B2
k) 2-Amino-2-(4-methoxyphenyl)propan-1-ol
A solution of 15.0 mmol of 2-amino-2-(4-methoxyphenyl)propionic acid [74279-63-3] in 15 ml of tetrahydrofuran is added dropwise to a suspension of 30.0 mmol of lithium aluminium hydride in 5 ml of tetrahydrofuran. The reaction mixture is heated to reflux for 1 hour. It is quenched with a little water and 1M NaOH and stirred at room temperature. The suspension is filtered through Hyflo. The filtrate is evaporated. The title compound is obtained as a pale yellowish oil, which may crystallize, and is employed without further purification in the next stage. Rt=1.97 (gradient I).

reactant | 2-amino-2-(4-methoxyphenyl)propionic acid | 15.0 mmol | NC(C(=O)O)(C)C1=CC=C(C=C1)OC | C10H13NO3
reactant | lithium aluminium hydride | 30.0 mmol | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-Amino-2-(4-methoxyphenyl)propan-1-ol | NC(CO)(C)C1=CC=C(C=C1)OC | C10H15NO2
